US09416138B2
Methyl 3-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)propanoate
Dissolve 3,4-dihydroisoquinolin-1(2H)-one (500 mg, 3.40 mmol) in THF (20 mL) and add sodium hydroxide (274.5 mg, 6.79 mmol) followed by methyl acrylate (438.7 mg, 5.10 mmol) in THF (1 mL). Stir the mixture at ambient temperature for 3 hours; quench with water (20 mL); and then dilute with EtOAc (100 mL). Wash the resulting mixture with brine; dry the organic phase over Na2SO4; filter; and concentrate the filtrate under reduced pressure to provide the title compound as a yellow oil (530 mg, 66.9%). MS (m/z): 234 (M+1).

reactant | 3,4-dihydroisoquinolin-1(2H)-one | 3.40 mmol, 500 mg | C1(NCCC2=CC=CC=C12)=O | C9H9NO
reactant | sodium hydroxide | 6.79 mmol, 274.5 mg | [OH-].[Na+]
reactant | methyl acrylate | 5.10 mmol, 438.7 mg | C(C=C)(=O)OC | C4H6O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Methyl 3-(1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 530 mg, 66.9% | O=C1N(CCC2=CC=CC=C12)CCC(=O)OC | C13H15NO3
